US06835733B2
Preparation of 7-Bromo-2-naphthalenol
Triphenyl phosphine (89.7 g, 0.342 mol) and acetonitrile (350 mL) were combined in a 1-L flask under N2 atmosphere. The mixture was cooled to 10° C. Bromine (17.6 mL, 0.342 mol) was added dropwise over 10 minutes. The cooling bath was removed and 2,7-dihydroxynaphthalene (50.0 g, 0.312 mol) was added along with 350 mL of CH3CN rinse. The resulting yellow tan mixture was heated at reflux for 3 hours. Acetonitrile was distilled off using a water aspirator over 2 hours, resulting in a grayish white solid. The solid was heated to 280° C. over 30 minutes, giving a black liquid. The liquid was heated to 310° C. over 20 minutes and the temperature was maintained at 310° C. for an additional 15 minutes until gas evolution ceased. The black mixture was cooled to room temperature. Chromatography yielded 34.5 g of the intermediate title compound as an off-white solid which was 87% pure by HPLC (43% yield).

reactant | Triphenyl phosphine | 0.342 mol, 89.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Bromine | 0.342 mol, 17.6 mL | BrBr | Br2
reactant | 2,7-dihydroxynaphthalene | 0.312 mol, 50.0 g | OC1=CC2=CC(=CC=C2C=C1)O | C10H8O2
solvent | CH3CN | 350 mL | CC#N | C2H3N
solvent | acetonitrile | 350 mL | C(C)#N | C2H3N
product | 7-Bromo-2-naphthalenol | 43% yield | BrC1=CC=C2C=CC(=CC2=C1)O | C10H7BrO
